data/polar.json
{"reaction_name": "Sulfonylation", "rsmi": "[O-:3][CH3:4].[O:1]=[S:6](=[O:2])([CH3:5])[Cl:7]>>[Cl-:7].[O:1]=[S:6](=[O:2])([O:3][CH3:4])[CH3:5]", "epd": [["LP-/Sigma+", [3], [3, 6]], ["Pi-/LP+", [1, 6], [1]], ["LP-/Pi+", [1], [1, 6]], ["Sigma-/LP+", [6, 7], [7]]]}
{"reaction_name": "Electrophilic chlorination", "rsmi": "[C:1]1([Cl:6])([Cl:7])[CH:19]=[C:26]([Cl:28])[c:29]2[cH:2][cH:10][cH:25][n:4][c:18]2[C:22]1=[O:16].[c:3]1([S:17](=[O:23])(=[O:24])[CH-:30][c:11]2[cH:8][cH:20][cH:27][cH:21][cH:9]2)[cH:12][cH:14][cH:5][cH:15][cH:13]1>>[c:1]1([Cl:7])[cH:19][c:26]([Cl:28])[c:29]2[cH:2][cH:10][cH:25][n:4][c:18]2[c:22]1[O-:16].[c:3]1([S:17](=[O:23])(=[O:24])[CH:30]([Cl:6])[c:11]2[cH:8][cH:20][cH:27][cH:21][cH:9]2)[cH:12][cH:14][cH:5][cH:15][cH:13]1", "epd": [["LP-/Sigma+", [30], [30, 6]], ["Sigma-/Pi+", [6, 1], [1, 22]], ["Pi-/LP+", [22, 16], [16]]]}
{"reaction_name": "Conjugate addition to an iminium-activated alkene", "rsmi": "[CH3:1][C:10]([CH3:2])([CH3:3])[c:33]1[cH:20][cH:40][cH:21][c:34]([C:11]([CH3:4])([CH3:5])[CH3:6])[c:24]1[N:35]1[C:16](=[CH:56][c:59]2[cH:48][cH:18][c:23]([N+:65](=[O:15])[O-:25])[cH:19][cH:49]2)[N:13]([c:28]2[c:43]([C:8]([CH3:50])([CH3:51])[CH3:52])[cH:41][cH:61][cH:42][c:44]2[C:9]([CH3:53])([CH3:54])[CH3:55])[N:64]=[C:46]1[c:22]1[cH:62][cH:30][cH:60][cH:31][cH:63]1.[cH:7]1[cH:12][cH:37][cH:17][c:26]2[c:14]1[N+:47]([CH3:29])=[CH:36][C:32]2=[CH:27][c:45]1[cH:38][cH:57][cH:66][cH:58][cH:39]1>>[CH3:1][C:10]([CH3:2])([CH3:3])[c:33]1[cH:20][cH:40][cH:21][c:34]([C:11]([CH3:4])([CH3:5])[CH3:6])[c:24]1-[n:35]1[c:16]([CH:56]([CH:27]([c:32]2[c:26]3[c:14]([cH:7][cH:12][cH:37][cH:17]3)[n:47]([CH3:29])[cH:36]2)[c:45]2[cH:38][cH:57][cH:66][cH:58][cH:39]2)[c:59]2[cH:48][cH:18][c:23]([N+:65](=[O:15])[O-:25])[cH:19][cH:49]2)[n+:13](-[c:28]2[c:43]([C:8]([CH3:50])([CH3:51])[CH3:52])[cH:41][cH:61][cH:42][c:44]2[C:9]([CH3:53])([CH3:54])[CH3:55])[n:64][c:46]1-[c:22]1[cH:62][cH:30][cH:60][cH:31][cH:63]1", "epd": [["LP-/Pi+", [13], [13, 16]], ["Pi-/Sigma+", [16, 56], [27, 56]], ["Pi-/Pi+", [27, 32], [32, 36]], ["Pi-/LP+", [36, 47], [47]]]}
{"reaction_name": "Nucleophilic addition to an oxocarbenium C=O+ center", "rsmi": "[CH:4](=[O+:21][CH3:20])[c:22]1[cH:11][cH:9][cH:6][cH:10][cH:12]1.[cH:1]1[c:7]2[c:8]3[cH:2][cH:14][cH:18][cH:16][c:24]3[n:19]([CH:3]=[CH2:5])[c:23]2[cH:15][cH:17][cH:13]1>>[cH:1]1[c:7]2[c:23]([cH:15][cH:17][cH:13]1)[N+:19](=[CH:3][CH2:5][CH:4]([O:21][CH3:20])[c:22]1[cH:11][cH:9][cH:6][cH:10][cH:12]1)[c:24]1[c:8]-2[cH:2][cH:14][cH:18][cH:16]1", "epd": [["LP-/Pi+", [19], [3, 19]], ["Pi-/Sigma+", [5, 3], [5, 4]], ["Pi-/LP+", [4, 21], [21]]]}
{"reaction_name": "Conjugate addition to an iminium-activated alkene", "rsmi": "[C:3]([CH:11]1[N+:16](=[CH:6][CH:29]=[CH:12][c:23]2[cH:7][cH:17][cH:5][cH:18][cH:8]2)[CH:15]([CH2:30][c:27]2[cH:35][cH:13][cH:19][cH:14][cH:36]2)[C:22](=[O:10])[N:28]1[CH3:21])([CH3:24])([CH3:25])[CH3:26].[cH:1]1[c:32]2[cH:31][cH:9][cH:2][cH:20][c:34]2[cH-:4][cH:33]1>>[CH:1]1=[CH:33][CH:4]([CH:12]([c:23]2[cH:7][cH:17][cH:5][cH:18][cH:8]2)[CH:29]=[CH:6][N:16]2[CH:11]([C:3]([CH3:24])([CH3:25])[CH3:26])[N:28]([CH3:21])[C:22](=[O:10])[CH:15]2[CH2:30][c:27]2[cH:35][cH:13][cH:19][cH:14][cH:36]2)[c:34]2[cH:20][cH:2][cH:9][cH:31][c:32]21", "epd": [["LP-/Sigma+", [4], [4, 12]], ["Pi-/Pi+", [12, 29], [29, 6]], ["Pi-/LP+", [6, 16], [16]]]}
{"reaction_name": "Michael addition", "rsmi": "[C:3](#[N:11])[C:20]([C:4]#[N:12])=[CH:5][c:26]1[cH:9][cH:15][cH:28][cH:16][cH:10]1.[cH:1]1[c:23]([CH:13]=[C:17]2[S:7][c:21]3[cH:18][cH:8][cH:14][cH:6][c:19]3[N:29]2[CH3:22])[cH:2][cH:25][cH:27][cH:24]1>>[cH:1]1[c:23]([CH:13]([CH:5]([C:20](=[C:3]=[N-:11])[C:4]#[N:12])[c:26]2[cH:9][cH:15][cH:28][cH:16][cH:10]2)[c:17]2[s:7][c:21]3[cH:18][cH:8][cH:14][cH:6][c:19]3[n+:29]2[CH3:22])[cH:2][cH:25][cH:27][cH:24]1", "epd": [["LP-/Pi+", [29], [17, 29]], ["Pi-/Sigma+", [13, 17], [13, 5]], ["Pi-/Pi+", [5, 20], [20, 3]], ["Pi-/LP+", [3, 11], [11]]]}
{"reaction_name": "Electrophilic chlorination", "rsmi": "[C:1]1([Cl:20])=[C:37]([Cl:14])[C:38]([Cl:26])=[C:11]([Cl:24])[C:36]([Cl:4])([Cl:5])[C:15]1=[O:22].[cH:2]1[cH:6][c:32]([B-:33]2([c:13]3[s:21][c:12]([CH3:25])[cH:16][cH:27]3)[O:9][c:34]3[cH:29][cH:31][cH:30][cH:28][c:35]3[O:10]2)[cH:7][cH:3][c:8]1[C:23]([F:17])([F:18])[F:19]>>[Cl:4][c:13]1[s:21][c:12]([CH3:25])[cH:16][cH:27]1.[c:1]1([Cl:20])[c:15]([O-:22])[c:36]([Cl:5])[c:11]([Cl:24])[c:38]([Cl:26])[c:37]1[Cl:14].[cH:2]1[cH:6][c:32](-[b-:33]2[o+:9][c:34]3[cH:29][cH:31][cH:30][cH:28][c:35]3[o:10]2)[cH:7][cH:3][c:8]1[C:23]([F:17])([F:18])[F:19]", "epd": [["LP-/Pi+", [9], [33, 9]], ["Sigma-/Sigma+", [13, 33], [13, 4]], ["Sigma-/Pi+", [4, 36], [36, 15]], ["Pi-/LP+", [15, 22], [22]]]}
